US07241893B2
A mixture of cyclopropylmethylammonium acetate (0.45 g, 3.44 mmol) and thiocyanato-acetic acid ethyl ester (0.5 g, 3.44 mmol) was heated to 90° C. for 2 h. The reaction mixture was partitioned between 6N HCl and dichloromethane. The layers were separated. The aqueous layer was made basic by the addition of 6N ammonium hydroxide, and then extracted with dichloromethane. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. The aqueous layer was also concentrated to dryness and the residue was triturated with DMF. The DMF solution was filtered and concentrated to dryness. The residues were combined and purified on a silica gel column with 100% ethyl acetate to afford 2-cyclopropylmethylamino-thiazol-4-one (275 mg, 47%).

reactant | cyclopropylmethylammonium acetate | 3.44 mmol, 0.45 g | C(C)(=O)[O-].C1(CC1)C[NH3+]
reactant | thiocyanato-acetic acid ethyl ester | 3.44 mmol, 0.5 g | C(C)OC(CSC#N)=O | C5H7NO2S
product | 2-cyclopropylmethylamino-thiazol-4-one | 275 mg, 47% | C1(CC1)CNC=1SCC(N1)=O | C7H10N2OS
